US05550286
100 g (0.5 mol) of 4-chloro-3-nitrobenzoic acid, 36 g (0.6 mol) of urea and 0.5 g of phosphorous acid are heated in 250 ml of 1,2-dichlorobenzene with stirring at from 165° to 178° C. for 8 h. After cooling to 25° C. the solid is filtered off with suction and washed with 50 ml of 1,2-dichlorobenzene. The filter cake is introduced into 250 ml of water, and the mixture is adjusted to a pH of 12 using aqueous sodium hydroxide solution and subjected to steam distillation. Subsequently the solid is filtered off with suction and dried at 100° C. 89.7 g of 4-chloro-3-nitrobenzamide are obtained having a melting point of from 146° to 149° C. This corresponds to a yield of 90.2% of theory. By acidification of the aqueous mother liquor to pH 2, 4.9 g of 4-chloro-3-nitrobenzoic acid (4.9% of theory) are obtained, which can be employed again in a subsequent batch.

reactant | 4-chloro-3-nitrobenzoic acid | 0.5 mol, 100 g | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | urea | 0.6 mol, 36 g | NC(=O)N | CH4N2O
solvent | 1,2-dichlorobenzene | 250 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | phosphorous acid | 0.5 g | P(O)(O)O | H3O3P
product | 4-chloro-3-nitrobenzamide | 89.7 g, yield of 90.2% | ClC1=C(C=C(C(=O)N)C=C1)[N+](=O)[O-] | C7H5ClN2O3
